US06528543B1
A solution of (3,4-dichloro-phenyl)-acetic acid (10.0 g, 0.048 mol) in ethanol (50 mL) was treated with a catalytic amount of sulfuric acid. The reaction mixture was refluxed for 7 h. The reaction was concentrated in vacuo, diluted with diethyl ether, and poured into water. The ether layer was washed with a saturated aqueous sodium bicarbonate solution and water. The organics were then dried over sodium sulfate, filtered, and concentrated in vacuo. Vacuum distillation (bath temperature: 175° C.; head temperature: 125° C.) afforded (3,4-dichloro-phenyl)-acetic acid ethyl ester (9.38 g, 82.5%) as a clear oil: EI-HRMS m/e calcd for C10H10Cl2O2 (M+) 232.0058, found 232.0066.

reactant | (3,4-dichloro-phenyl)-acetic acid | 0.048 mol, 10.0 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | (3,4-dichloro-phenyl)-acetic acid ethyl ester | 9.38 g, 82.5% | C(C)OC(CC1=CC(=C(C=C1)Cl)Cl)=O | C10H10Cl2O2
